US07858717B2
9.9 mL of TIBA/cyclohexane solution (113 g/L) were mixed with 2.4 mL of MAO/toluene solution to obtain a MAO/TIBA molar ratio of 2:1. The solution was stirred for 1 h at room temperature and transferred into a 50 mL Schlenk flask containing 20.8 mg of A1. This solution was diluted with 23.5 mL of cyclohexane to reach a concentration of 50 gTOT/L and 0.582 gmetallocene/L.

reactant | TIBA cyclohexane | 9.9 mL | C1=C(C=C(C(=C1I)I)C(=O)O)I.C1CCCCC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | TIBA | C1=C(C=C(C(=C1I)I)C(=O)O)I | C7H3I3O2
